US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]((2S)pyrrolidin-2-yl)carboxamide
The title compound was prepared according to the procedure described in Example 3, Step (b) from tert-butyl 2-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(methylsulfonyl)-amino]-phenyl)-piperidyl)-2-oxoethyl]carbamoyl}(2S)pyrrolidinecarboxylate (Step a) (315 mg, 0.5 mmol) and 50% TFA in CH2Cl2 (20 mL). Purification by preparative reverse phase HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white foam (101 mg). MS (ESI, pos. ion) m/z: 533 (M+1); (ESI, neg. ion) m/z: 531 (M−1). Calc'd for C26H33ClN4O4S: 532.19. Anal. Calcd for C26H33ClN4O4S.1.2C2HF3O2: C, 50.92; H, 5.15; N, 8.36. Found: C, 50.82; H, 5.32; N, 8.38.

reactant | tert-butyl 2-{N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(methylsulfonyl)-amino]-phenyl)-piperidyl)-2-oxoethyl]carbamoyl}(2S)pyrrolidinecarboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C31H41ClN4O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]((2S)pyrrolidin-2-yl)carboxamide | 101 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)[C@H]1NCCC1 | C26H33ClN4O4S
